US07390923B2
2-Methyl-N-(2-methyl-3-nitrophenyl)acrylamide was prepared as described in Example 1a starting from 2-methyl-3-nitroaniline and methacryloyl chloride. 1H NMR (400 MHz, DMSO-d6): 1.97 (3H, s), 2.23 (3H, s), 5.56 (1H, s), 5.90 (1H, s), 7.40-7.46 (1H, m), 7.57-7.60 (1H, m), 7.74-7.77 (1H, m), 9.71 (1H, s).

reactant | 2-methyl-3-nitroaniline | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | 2-Methyl-N-(2-methyl-3-nitrophenyl)acrylamide | CC(C(=O)NC1=C(C(=CC=C1)[N+](=O)[O-])C)=C | C11H12N2O3
